US04221808
A mixture of 66.1 g (0.341 mole) of methyl 5-acetyl-2-hydroxybenzoate, 7.26 g (0.511 mole) of methyl iodide and 47.0 g (0.341 mole) of potassium carbonate in 400 ml of sieve-dried dimethylformamide is stirred at room temperature for 65 hours. The mixture is poured on 1.5 liters of N hydrochloric acid, extracted 6 times with ethyl ether, washed extract with water, NaHCO3 solution and cold 1 N NaOH, dried over Na2SO4, and evaporated solvent. Methyl 5-acetyl-2-methoxybenzoate, 51.3 g (72%) m.p. 95°-96° C., is obtained.

reactant | methyl 5-acetyl-2-hydroxybenzoate | 0.341 mole, 66.1 g | C(C)(=O)C=1C=CC(=C(C(=O)OC)C1)O | C10H10O4
reactant | methyl iodide | 0.511 mole, 7.26 g | CI | CH3I
reactant | potassium carbonate | 0.341 mole, 47.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | Methyl 5-acetyl-2-methoxybenzoate | C(C)(=O)C=1C=CC(=C(C(=O)OC)C1)OC | C11H12O4
